US05958929
A mixture of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (3.50 g, 15.74 mmol), 3-[2-(dimethylamino)ethoxy]benzaldehyde (3.95 g) and xylenes (10 ml) was heated at 160° C. overnight. The reaction mixture was cooled to room temperature, the solvent was stripped, and the residue was partitioned between chloroform and water. The layers were separated, and the aqueous layer was extracted with chloroform. The organic layers were combined, washed with brine, dried over MgSO4, filtered and stripped to afford, as an oil, 1-cyclopentyl-3-ethyl-6-[3-[2-(dimethylamino)ethoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one labelled as [Example 23 (b)]. The free base was treated with ethanolic HCl to afford the product as the hydrochloride salt [labelled as Example 23 (c)].

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 15.74 mmol, 3.50 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 3-[2-(dimethylamino)ethoxy]benzaldehyde | 3.95 g | CN(CCOC=1C=C(C=O)C=CC1)C | C11H15NO2
product | 1-cyclopentyl-3-ethyl-6-[3-[2-(dimethylamino)ethoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC(=CC=C2)OCCN(C)C)CC | C22H29N5O2
